US08895547B2
(3-Benzyloxyphenyl)methanesulfonic acid sodium salt
5.80 g of methanesulfonic acid 3-benzyloxybenzyl ester and 5.21 g of sodium sulfite were dissolved in 50 ml of water and stirred at 90° C. for 5 hours. The mixture was allowed to cool to room temperature overnight, then 30 ml of ethyl acetate were added and the mixture was stirred in an ice bath for 1 hour. The precipitate was filtered off with suction, washed twice with 10 ml of ice-water and twice with 10 ml of ice-cold ethyl acetate, and dried in a vacuum drying cabinet at 40° C. overnight. This gave the product (2.37 g) with a molecular weight of 300.3 g/mol (C14H13O4S.Na); MS (ESI): m/e=296 (M−Na++H2O+H+).

reactant | methanesulfonic acid 3-benzyloxybenzyl ester | 5.80 g | C(C1=CC=CC=C1)OC=1C=C(COS(=O)(=O)C)C=CC1 | C15H16O4S
reactant | sodium sulfite | 5.21 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | (3-Benzyloxyphenyl)methanesulfonic acid sodium salt | 2.37 g | [Na+].C(C1=CC=CC=C1)OC=1C=C(C=CC1)CS(=O)(=O)[O-] | InChI=1S/C14H14O4S.Na/c15-19(16,17)11-13-7-4-8-14(9-13)18-10-12-5-2-1-3-6-12;/h1-9H,10-11H2,(H,15,16,17);/q;+1/p-1
